US04550107
11-[[3-[(Diethylamino)methyl]-1-piperidinyl]acetyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
A solution of 3-[(diethylamino)-methyl]piperidine (4.6 g, 0.027 mol) in dry dimethylformamide (10 ml) is added dropwise over 2 hours to a suspension of 11-chloroacetyl-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one (5.2 g, 0.0181 mol) in anhydrous dimethylformamide (25 ml), then the resulting mixture is stirred for a further 6 hours at ambient temperature and left to stand overnight. The mixture is stirred into ice (200 g), made alkaline with postassium carbonate and extracted exhaustively with dichloromethane. The combined dichloromethane extracts are washed once with water (20 ml), dried over magnesium sulphate and concentrated by evaporation in vacuo. After recrystallization from ethyl acetate, colorless crystals (4.5 g) are obtained, mp. 199°-200° C.

reactant | 3-[(diethylamino)-methyl]piperidine | 0.027 mol, 4.6 g | C(C)N(CC)CC1CNCCC1 | C10H22N2
reactant | 11-chloroacetyl-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 0.0181 mol, 5.2 g | ClCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C14H10ClN3O2
reactant | carbonate | C([O-])([O-])=O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 11-[[3-[(Diethylamino)methyl]-1-piperidinyl]acetyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | C(C)N(CC)CC1CN(CCC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C24H31N5O2
